US07067658B2
2-Benzyloxy-4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridine (1.51 g, 4.07 mmol) was dissolved in TFA (20 mL) and stirred at room temperature for 4 h. The reaction mixture was concentrated, washed with toluene, and concentrated in vacuo to yield 1.19 g (100%) of 4-(2-chloro-4-methoxy-phenyl)-3-nitro-1H-pyridin-2-one as a solid: MS (AP) m/z 280.7 [(M+H)+, 100].

reactant | 2-Benzyloxy-4-(2-chloro-4-methoxy-phenyl)-3-nitro-pyridine | 4.07 mmol, 1.51 g | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC)Cl | C19H15ClN2O4
solvent | TFA | 20 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(2-chloro-4-methoxy-phenyl)-3-nitro-1H-pyridin-2-one | 1.19 g, 100% | ClC1=C(C=CC(=C1)OC)C1=C(C(NC=C1)=O)[N+](=O)[O-] | C12H9ClN2O4
